US08278319B2
Stage 1:1-(8-Phenyl-1,4-dioxaspiro[4.5]decan-8-yl)pyrrolidine
A mixture of 1,4-dioxaspiro[4.5]decan-8-one (10 g, 64 mmol), benzotriazole (7.62 g, 64 mmol) and pyrrolidine (5.26 ml, 64 mmol) in dry benzene (300 ml) was refluxed under an argon atmosphere in a water separator for 18 h. The reaction mixture was cooled to 25° C. and concentrated to small volume under vacuum and dried (aerated with argon). The crude product was taken up in dry tetrahydrofuran (50 ml) and cooled to 0° C. Phenyl magnesium bromide solution (650 ml, 1 mol/l in tetrahydrofuran) was added dropwise under protective gas. The cooling bath was removed and the mixture stirred for 18 h at 25° C. The reaction mixture was cooled to 0° C. again, hydrolysed with saturated ammonium chloride solution and extracted with ethyl acetate (3×300 ml). The combined organic phases were washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated to small volume under vacuum. The crude product was purified by column chromatography (silica gel) with 5% methanol in dichloromethane. Yield: 13%

reactant | 1,4-dioxaspiro[4.5]decan-8-one | 64 mmol, 10 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | benzotriazole | 64 mmol, 7.62 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | pyrrolidine | 64 mmol, 5.26 ml | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 1-(8-Phenyl-1,4-dioxaspiro[4.5]decan-8-yl)pyrrolidine | Yield: 13% | C1(=CC=CC=C1)C1(CCC2(OCCO2)CC1)N1CCCC1 | C18H25NO2
